US07576094B2
To a stirred ice-cold solution of trifluoroacetic acid (2 mL) and acetic acid (2 mL) was added sodium borohydride (30 mg). After stirring 10 min, a solution of 7,8-dimethyl-4H -spiro[chromene-3,1′-cyclopropane]-4,6-diol added (30 mg) in 20 mL of dichloromethane was added in one portion. Immediately thereafter, additional 20 mg of sodium borohydride was added to the solution, which was stirred for another 10 min. The mixture was partitioned with dichloromethane and water, and the organic layer was washed, dried and evaporated. The residue was purified by silica gel column eluting with 15% EtOAc in hexane to give 7,8-dimethyl-4H-spiro[chromene-3,1′-cyclopropan]-6-ol as a white solid (20 mg).

reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 30 mg | [BH4-].[Na+]
reactant | 7,8-dimethyl-4H -spiro[chromene-3,1′-cyclopropane]-4,6-diol | CC1=C(C=C2C(C3(CC3)COC2=C1C)O)O | C13H16O3
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 7,8-dimethyl-4H-spiro[chromene-3,1′-cyclopropan]-6-ol | 20 mg | CC1=C(C=C2CC3(CC3)COC2=C1C)O | C13H16O2
